US09353107B2
Step-ii: N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)methanesulfonamide
Using similar reaction conditions as described in step-ii of example-1, 5-bromo-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (300 mg, 0.542 mmol) was coupled with N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methane sulfonamide (intermediate-17) (212 mg, 0.650 mmol) in sodium carbonate (172 mg, 1.62 mmol), 1,2-methoxyethane (15 mL). This afforded 350 mg of the crude titled compound.

reactant | 5-bromo-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.542 mmol, 300 mg | BrC=1C=C2C(=NC1)N(C=C2C=2C(=NN(C2C)CC2=CC(=CC=C2)F)C)S(=O)(=O)C2=CC=C(C)C=C2 | C26H22BrFN4O2S
reactant | N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methane sulfonamide | 0.650 mmol, 212 mg | COC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)C | C14H22BNO5S
reactant | sodium carbonate | 1.62 mmol, 172 mg | C([O-])([O-])=O.[Na+].[Na+]
product | N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)methanesulfonamide | 350 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OC)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C34H32FN5O5S2
